US07141586B2
cis-N-[4-(4-Chloro-pentoylamino)-cyclohexyl]-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide (259 mg, 0.486 mmol) was dissolved in N-methylpyrrolidine (5 ml) under nitrogen at room temperature and sodium hydride (60% dispersion in mineral oil, 49 mg, 1.21 mmol) was added. The reaction was stirred at room temperature for 18 h and quenched with water (10 ml) then extracted with ethyl acetate (5×10 ml). The combined organic extracts were washed with water (3×5 ml), brine (5 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with dichloromethane:methanol (97:3, by volume) and the product was triturated with diethylether (2 ml) to give 5-Fluoro-2-(3-methylsulfanyl-phenoxy)-N-[cis-4-(2-oxo-piperidin-1-yl)-cyclohexyl]-nicotinamide (69 mg) as a white solid.

reactant | cis-N-[4-(4-Chloro-pentoylamino)-cyclohexyl]-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide | 0.486 mmol, 259 mg | ClC(CCC(=O)N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O)C | C24H29ClFN3O3S
reactant | sodium hydride | 1.21 mmol, 49 mg | [H-].[Na+]
solvent | N-methylpyrrolidine | 5 ml | CN1CCCC1 | C5H11N
product | 5-Fluoro-2-(3-methylsulfanyl-phenoxy)-N-[cis-4-(2-oxo-piperidin-1-yl)-cyclohexyl]-nicotinamide | 69 mg | FC=1C=NC(=C(C(=O)N[C@@H]2CC[C@@H](CC2)N2C(CCCC2)=O)C1)OC1=CC(=CC=C1)SC | C24H28FN3O3S
